* Z:\mnt\spice-netlists\LT3467.asc
V1 IN 0 5V
R1 OUT N002 115K
R2 N002 0 13.3K
L1 IN N001 3.3µ
Iload OUT 0 260m load
D1 N001 OUT MBRS130L
XU1 N001 0 N002 IN N003 IN LT3467
C1 IN 0 4.7µ
C2 OUT 0 10µ
C3 OUT N002 12p
C4 N003 0 .001µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.tran .5m startup
* LT3467 - 1.1A, 1.3MHz, Step-up DC/DC Converter in ThinSOT\nInput: 5V    Output: 12V @ 260mA
.lib LT3467.sub
.backanno
.end
