* Z:\mnt\spice-netlists\LT3470.asc
V1 IN 0 12
I1 OUT 0 200m load
XU1 IN MP_01 IN 0 N002 N001 OUT N003 LT3470
C1 IN 0 1µ
C2 N002 N001 0.22µ
C3 OUT N003 22p
C4 OUT 0 22µ
L1 N002 OUT 33µ
R1 OUT N003 604K
R2 N003 0 200K
.tran 1.4m startup
* LT3470 - 40V µPower Buck Regulator With Integrated Boost and Catch Diodes\nInput: 12V     Output: 5V @ 200mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3470.sub
.backanno
.end
