* Z:\mnt\spice-netlists\LT3475.asc
V1 IN 0 12
L1 N006 N004 10µ
C1 N003 N006 .22µ
R1 0 N014 24.3k
D1 0 N006 1N5819
C2 N004 0 2.2µ
D2 N008 0 LXK2-PW14
C3 IN 0 2.2µ
XU1 N001 N007 N002 N005 IN MP_01 N006 N003 N008 N004 N010 N013 N012 N014 0 IN N013 N011 N013 N009 LT3475
D3 N004 N003 1N4148
L2 N005 N001 10µ
D4 0 N005 1N5819
D5 N001 N002 1N4148
C4 N002 N005 .22µ
C5 N001 0 2.2µ
C6 N011 0 0.1µ
C7 0 N012 0.1µ
D6 N007 0 LXK2-PW14
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.8ms startup
* LT3475 - Dual 1.5A, Wide Input Range Step-Down LED Driver DC/DC Converter\nInput: 12V    Output: two 1.5A LED channels
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3475.sub
.backanno
.end
