* Z:\mnt\spice-netlists\LT3476.asc
XU1 N014 N016 N015 N011 N003 N001 N002 N013 N012 N002 0 LT3476
V1 N002 0 3.3
V2 N001 0 33
R1 N013 N015 4.99K
R2 N015 0 100K
R3 N001 N003 .1
D1 N003 N004 LXHL-BW02
L1 N010 N011 10µ
C1 N001 N010 .33µ
R4 N016 0 21K
C2 N014 0 .01µ
C3 N001 0 4.7µ
C4 N002 0 1µ
C5 N013 0 .022µ
D6 N011 N001 MBRS140
V3 N012 0 PULSE(5 0 1.5m 1u 1u 0.1m 0.2m)
D2 N004 N005 LXHL-BW02
D3 N005 N006 LXHL-BW02
D4 N006 N007 LXHL-BW02
D5 N007 N008 LXHL-BW02
D7 N008 N009 LXHL-BW02
D8 N009 N010 LXHL-BW02
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* LT3476 - Quad High Power LED Driver in Buck Mode\n Input: 3.3V and 33V Output: 1A regulated through 7 LED's
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3476.sub
.backanno
.end
