* Z:\mnt\spice-netlists\LT3477.asc
XU1 MP_01 MP_02 IN N009 IN N006 N008 N004 N005 N005 IN IN OUT N003 IN N001 0 N002 LT3477
L1 N001 N002 5µ
R1 N009 0 22K
C1 N006 0 .033µ
D1 N002 OUT MBRS140
C2 OUT 0 4.7µ
R2 OUT N003 0.3
R3 N004 0 10K
R4 OUT N004 280K
V1 IN 0 5
R5 IN N001 .03
C3 N008 N007 4700p
R6 0 N007 1K
C4 IN 0 2.2µ
D2 N003 P001 LXHL-BW02
D3 P001 P002 LXHL-BW02
D4 P002 P003 LXHL-BW02
D5 P004 P005 LXHL-BW02
D6 P003 P004 LXHL-BW02
D7 P005 P006 LXHL-BW02
D8 P006 P007 LXHL-BW02
D9 P007 0 LXHL-BW02
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m startup
* LT3477_Boost - 3A, Monolithic Boost LED Driver DC/DC Converter\nInput: 5V    Output: 330mA through eight series 1W 3.5V LEDs
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3477.sub
.backanno
.end
