* Z:\mnt\spice-netlists\LT3482.asc
L1 IN N001 10µ
C1 0 N006 .01µ
R1 N006 0 10K
V1 IN 0 5
R2 N003 N005 1Meg
R3 N005 0 14k
XU1 MP_01 APD N003 N003 N004 N002 N001 MP_02 0 MP_03 IN IN IN N005 IN N006 LT3482
C2 N003 N004 .22µ
C3 N004 0 0.22µ
C4 N002 N001 .1µ
C5 N003 N005 100p
Rload APD 0 34K
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3482 - 280mA, 85V Boost DC/DC Converter for APD Bias\nInput: 5V       Output: 85V@2.5mA
.lib LT3482.sub
.backanno
.end
