* Z:\mnt\spice-netlists\LT3487.asc
V1 IN 0 3.3
L1 N002 IN 15µ
C1 IN 0 1µ
C2 N004 0 10µ
XU1 N004 N001 IN N002 N003 IN N005 N007 N006 OUT1 0 LT3487
L2 IN N001 15µ
L3 OUT2 N003 15µ
C3 N002 N003 2.2µ
C4 OUT2 0 10µ
R1 N005 OUT2 324K
R2 N004 N006 549K
C5 OUT1 0 .1µ
C6 N007 0 100p
C7 N005 OUT2 27p
C8 N006 N004 10p
Rload2 OUT2 0 88
Rload1 OUT1 0 330
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.tran 2.5m startup
* LT3487 - 750mA and 900mA, 2MHz, Boost and Inverting Regulator for CCD Bias\nInput: 3.3V    Outputs: 15V@45mA and -8V@90mA
.lib LT3487.sub
.backanno
.end
