* Z:\mnt\spice-netlists\LT3489.asc
V1 IN 0 3.3
R1 OUT1 N005 28.7K
R2 N005 0 5.23K
L1 IN N004 2.2µ
D1 N004 OUT1 DFLS220L
C1 IN 0 4.7µ
C2 OUT1 0 20µ
C3 P001 0 220p
XU1 N006 N005 IN 0 N004 IN 0 N007 LT3489
R3 N006 P001 37.4K
C4 N007 0 .01µ
D2 N002 N003 BAT54
D3 OUT1 N002 BAT54
C5 N002 N004 .1µ
C6 N003 OUT1 .1µ
D4 N001 OUT2 BAT54
D5 N003 N001 BAT54
C7 N001 N002 .1µ
C8 OUT2 0 2.2µ
C9 N004 N008 .1µ
C10 0 OUT3 2.2µ
D6 N008 0 BAT54
D7 OUT3 N008 BAT54
Rload2 OUT2 0 2.4K
Rload3 0 OUT3 400
Rload1 OUT1 0 13
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.tran 2m startup
* LT3489 - 2.5A, 2MHz, Step-up DC/DC Converter for TFT supplies\nInput: 3.3V    Outputs: 8V@610mA, 23V@10mA, and -8V@20mA
.lib LT3489.sub
.backanno
.end
