* Z:\mnt\spice-netlists\LT3491.asc
V1 IN 0 3
C1 IN 0 1µ
C2 N008 0 .47µ
R1 N008 N002 10
L1 IN N001 15µ
D1 N002 N003 NSPW500BS
XU1 IN 0 N001 N008 N002 IN LT3491
D2 N003 N004 NSPW500BS
D3 N004 N005 NSPW500BS
D4 N005 N006 NSPW500BS
D5 N006 N007 NSPW500BS
D6 N007 0 NSPW500BS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .3m startup
* LT3491 - LED Driver in SC70 With Build-in Schottky\nInput: 3V to 5V       Output: 20mA through 6 LEDs
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3491.sub
.backanno
.end
