* Z:\mnt\spice-netlists\LT3497.asc
L1 IN N001 15µ
V1 IN 0 3
C1 IN 0 1µ
R1 N004 N002 10
V2 N003 0 PULSE(.5 1.25 .5m 1u 1u .5m 1m)
XU2 IN 0 N001 N004 N002 N003 LT3497
C2 N004 0 1µ
D1 N002 0 NSPW500BS N=6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m
* LT3497 - Dual Full Function White LED Driver with Integrated Schottky Diodes\nInput: 3V to 10V       Output: 20mA through 6 white LEDs
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
* Diode instance parameter\n"N=6" means that this is\n6 diodes in series.
.lib LT3497.sub
.backanno
.end
