* Z:\mnt\spice-netlists\LT3502.asc
XU1 IN OUT N004 IN 0 N003 N001 N002 LT3502
V1 IN 0 5
L1 N002 OUT 15µ
R2 OUT N004 31.6K
R3 N004 0 10K
C2 OUT 0 22µ
R4 OUT 0 6.6
D1 N003 N002 PMEG4005AEA
C3 N001 N002 .1µ
C1 IN 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300u startup
* LT3502 - 40V, 500mA, 1.1MHz Buck Regulator in 2×2 DFN\nInput: 5V to 40V       Output: 3.3V @ 500mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
.lib LT3502.sub
.backanno
.end
