* Z:\mnt\spice-netlists\LT3503.asc
V1 IN 0 12
C1 N001 N002 .1µ
L1 N002 OUT 2.2µ
R1 OUT N003 32.4K
R2 0 N003 10K
D1 0 N002 MBRS140
C2 OUT 0 10µ
D2 OUT N001 1N4148
C3 OUT N003 22p
C4 IN 0 1µ
R3 OUT 0 2.7
XU1 N003 0 N001 N002 IN IN LT3503
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .3m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3503 - 1.2A, 2.25MHz Step-down Switching Regulator in 2mm × 3mm DFN\nInput: 12V       Output: 3.3V @ 1.2A
.lib LT3503.sub
.backanno
.end
