* Z:\mnt\spice-netlists\LT3505.asc
V1 IN 0 12
C1 N001 N002 .1µ
L1 N002 OUT 6.3µ
R1 OUT N003 61.9K
R2 N003 0 11.3K
D1 0 N002 MBRS140
C2 OUT 0 10µ
C3 OUT N003 68p
C4 IN 0 1µ
XU1 N001 N002 IN IN 0 N004 N003 N005 LT3505
R3 N004 0 20.5K
R4 N005 N006 8.06K
C5 N006 0 47p
C6 N005 0 4.7p
D2 OUT N001 1N4148
Rload OUT 0 4.2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 200u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3505 - 1.2A, 2.25MHz Step-down Switching Regulator in 3mm × 3mm DFN\nInput: 12V       Output: 5V @ 1.2A
.lib LT3505.sub
.backanno
.end
