* Z:\mnt\spice-netlists\LT3506.asc
V1 N001 0 5
C1 N015 0 100p
C2 N003 N005 .1µ
L1 N005 OUT1 4.7µ
R1 OUT1 N007 12.4K
R2 N007 0 10K
D1 0 N005 MBRS340
C3 OUT1 0 22µ
C4 N010 N011 470p
R3 OUT1 N013 100K
C5 N014 0 100p
C6 N002 N004 .1µ
L2 N004 OUT2 3.3µ
R4 OUT2 N006 4.99K
R5 N006 0 10K
D2 0 N004 MBRS340
C7 OUT2 0 47µ
Rload2 OUT2 0 0.75
C8 N009 N008 330p
R7 OUT2 N012 100K
R8 N008 0 24K
R9 0 N011 20K
D3 N001 N002 BAT54
D4 N001 N003 BAT54
C9 N001 0 4.7µ
XU1 N003 MP_01 N005 N001 MP_02 N004 0 N002 N006 N009 N012 N014 N015 N013 N010 N007 LT3506
Rload1 OUT1 0 1.13
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300u startup
* LT3506 - 1.6A, 575KHz Step-Down Switching Regulator\nInput:  3.6V - 21V   Outputs: 1.8V @ 1.6A  and 1.2V @ 1.6A
* 1.2V
* 1.8V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3506.sub
.backanno
.end
